US07115750B1
N-[6-[(Dimethylamino)methyl]-5-hydroxy-5,6,7,8-tetrahydro-2-naphthalenyl]-4-(4-fluorophenyl)-1-piperidinecarboxamide
N,N-Dimethylmethylene ammonium chloride(638 mg, 6.82 mmol) was added to a mixed solution of 4-(4-fluorophenyl)-N-(5-oxo-5,6,7,8-tetrahydro-2-naphthalenyl)-1-piperidinecarboxamide (1.00 g, 2.73 mmol) obtained in Reference Example 97 in tetrahydrofuran (10 ml) and acetonitrile (10 ml), which was stirred at room temperature for 1 day. The solvent was distilled out under reduced pressure. Ethyl acetate was added to the residue, which was washed with aqueous potassium carbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. The resulting oily substance was dissolved in methanol (15 ml). Sodium borohydride (103 mg, 2.73 mmol) was added to the solution under ice-cooling, which was stirred for 1 hour. Then, the solvent was distilled out under reduced pressure. 1N Hydrochloric acid was added to the residue, which was washed with ethyl acetate. 4N Sodium hydroxide was added to the water layer to make it alkaline. The reaction mixture was extracted with ethyl acetate, which was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. The resulting residue was purified by aluminum B column chromatography (development solvent; ethyl acetate), powdered with hexane, to give the titled compound (231 mg).

reactant | N,N-Dimethylmethylene ammonium chloride | 6.82 mmol, 638 mg | [Cl-].CC=[N+]=CC
reactant | 4-(4-fluorophenyl)-N-(5-oxo-5,6,7,8-tetrahydro-2-naphthalenyl)-1-piperidinecarboxamide | 2.73 mmol, 1.00 g | FC1=CC=C(C=C1)C1CCN(CC1)C(=O)NC1=CC=2CCCC(C2C=C1)=O | C22H23FN2O2
reactant | Sodium borohydride | 2.73 mmol, 103 mg | [BH4-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[6-[(Dimethylamino)methyl]-5-hydroxy-5,6,7,8-tetrahydro-2-naphthalenyl]-4-(4-fluorophenyl)-1-piperidinecarboxamide | 231 mg | CN(C)CC1C(C=2C=CC(=CC2CC1)NC(=O)N1CCC(CC1)C1=CC=C(C=C1)F)O | C25H32FN3O2
